US04689414
(C) 2-Amino-4-methyl-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, diethyl ester
A solution of 2-methoxy-4-methyl-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, diethyl ester (3.78 g, 9.66 mmoles of crude from previous reaction) in anhydrous tetrahydrofuran (20 ml) was cooled to 0° C. (ice bath) and a slow stream of ammonia gas was bubbled through it for approximately 5 minutes. Solid ammonium acetate (385 mg, 5.0 mmoles) was added and the reaction flask was tightly stoppered and allowed to stir at room temperature for 72 hours. A light yellow solid precipitated out of the reaction. Excess ammonia and tetrahydrofuran were evaporated and the residue was dissolved in methylene chloride. The insoluble material (ammonium acetate) was filtered off and the filtrate was concentrated. The residue was purified by flash chromatography (30% ethyl acetate in dichloromethane). The desired product was crystallized from dichloromethane-isopropyl ether to provide 2.03 g of the title compound as a yellow solid, melting point 166°-168° C.

reactant | 2-methoxy-4-methyl-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, diethyl ester | 9.66 mmoles, 3.78 g | COC=1N(C(C(=C(N1)C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C18H21N3O7
reactant | ammonium acetate | 5.0 mmoles, 385 mg | C(C)(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Amino-4-methyl-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, diethyl ester | 2.03 g | NC=1N(C(C(=C(N1)C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C17H20N4O6
